US07091199B1
Preparation of (3-fluoro-benzyl)-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine (Scheme I(a), Compound 1)
Add dichloromethane to 3-thieno[2,3-d]isoxazol-3-yl-phenol (10 g, 0.046 mol) or the appropriately protected 3-thieno[2,3-d]isoxazol-3-yl-phenol as is known in the art, and stir with sodium hydroxide (1M; 28 mL) to form the sodium salt. Combine the sodium salt from 3-thieno[2,3-d]isoxazol-3-yl-phenol, (2-bromo-ethyl)-(3-fluorobenzyl)-amine (37.5 g, 0.161 mol) in toluene (100 mL) and heat (reflux) for 24 hours. Allow to cool, filter the reaction mixture and evaporate off the solvent to give the final, desired compound. Compound may be purified by distillation under reduced pressure.

reactant | sodium | [Na] | Na
reactant | 3-thieno[2,3-d]isoxazol-3-yl-phenol | O1N=C(C2=C1C=CS2)C=2C=C(C=CC2)O | C11H7NO2S
reactant | (2-bromo-ethyl)-(3-fluorobenzyl)-amine | 0.161 mol, 37.5 g | BrCCNCC1=CC(=CC=C1)F | C9H11BrFN
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | (3-fluoro-benzyl)-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine | FC=1C=C(CNCCOC2=CC(=CC=C2)C2=NOC3=C2SC=C3)C=CC1 | C20H17FN2O2S
